US06518273B1
5-Methyl-1H-indole-3-propanoic Acid
Acrylic acid (16.5 mL, 240.6 mmol) was added to a solution of 5-methyl-1H-indole (10.5 g, 80.2 mmol) in acetic acid (20 mL) and acetic anhydride (20 mL) and the mixture was stirred at room temperature for 1 week. Aqueous sodium hydroxide (4N, 100 mL) was added and the mixture was washed with ethyl acetate. The aqueous fraction was acidified to pH 1 with hydrochloric acid (5M) and extracted with ethyl acetate. The combined organic fractions were dried (MgSO4) and the solvent was evaporated under reduced pressure to give the title compound as a brown solid (7 g, 43%). 1H NMR (360MHz, CDCl3) δ7.85 (1H, br s), 7.38 (1H, s), 7.24 (1H, d, J 8.3 Hz), 7.02 (1H, dd, J 8.3, 2.3 Hz), 6.97 (1H, d, J 2.3 Hz), 3.09 (2H, t, J 7.6 Hz), 2.76 (2H, t, J 7.6 Hz), and 2.46 (3H, s).

reactant | Acrylic acid | 240.6 mmol, 16.5 mL | C(C=C)(=O)O | C3H4O2
reactant | 5-methyl-1H-indole | 80.2 mmol, 10.5 g | CC=1C=C2C=CNC2=CC1 | C9H9N
reactant | sodium hydroxide | 4N, 100 mL | [OH-].[Na+]
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 20 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 5-Methyl-1H-indole-3-propanoic Acid | 7 g, 43% | CC=1C=C2C(=CNC2=CC1)CCC(=O)O | C12H13NO2
